US06100259
c) Ethyl 5-(2-morpholin-4-ylethoxy)-1-[4-(2-formylphenyl)phenyl]pyrazole-4-carboxylate
A mixture of ethyl 5-(2-morpholin-4-ylethoxy)-1-(4-bromophenyl)pyrazole-4-carboxylate (0.25 g, 0.59 mmol), sodium carbonate (0.20 g, 1.77 mmol), tetrakis(triphenylphosphine) palladium (0) (0.12 g, 0.18 mmol) and 1-formylbenzeneboronic acid (0.10 g, 0.76 mmol) in a solution of toluene (10 mL), ethanol (1 mL) and water (1 mL) was stirred at reflux for 18 h. The reaction was diluted with water and extracted with ethyl acetate. The organic extract was washed with brine and dried (Na2SO4). After removing the solvent, flash chromatography of the residue (silica gel, 50% ethyl acetate/hexane) afforded the title compound as an oil (0.14 g, 66%). 1H NMR (250 MHz, CDCl3) d 9.98 (s, 1H), 8.01 (d, 1H), 7.92 (s, 1H), 7.85 (d, 2H), 7.62 (d, 1H), 7.46 (m, 4H), 4.65 (t, 2H), 4.35 (q, 2H), 3.56 (t, 4H), 2.68 (t, 2H), 2.38 (t, 4H), 1.38 (t, 3H). MS(ESI) m/e 450.4 [M+H]+.

reactant | ethyl 5-(2-morpholin-4-ylethoxy)-1-(4-bromophenyl)pyrazole-4-carboxylate | 0.59 mmol, 0.25 g | N1(CCOCC1)CCOC1=C(C=NN1C1=CC=C(C=C1)Br)C(=O)OCC | C18H22BrN3O4
reactant | sodium carbonate | 1.77 mmol, 0.20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-formylbenzeneboronic acid | 0.76 mmol, 0.10 g | C(=O)C1(CC=CC=C1)B(O)O | C7H9BO3
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.18 mmol, 0.12 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 1 mL | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | Ethyl 5-(2-morpholin-4-ylethoxy)-1-[4-(2-formylphenyl)phenyl]pyrazole-4-carboxylate | 0.14 g, 66% | N1(CCOCC1)CCOC1=C(C=NN1C1=CC=C(C=C1)C1=C(C=CC=C1)C=O)C(=O)OCC | C25H27N3O5
